### PR TITLE
[Merged by Bors] - chore(Algebra): shorten proofs by removing lemmas used in simp

### PR DESCRIPTION
**Pull request by LLaurance**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Free.lean [hunk 1]
```diff
@@ -522,9 +522,7 @@ homomorphism `FreeAddSemigroup α → β` given an additive semigroup `β`. -/]
 def lift : (α → β) ≃ (FreeSemigroup α →ₙ* β) where
   toFun f :=
     { toFun := fun x ↦ x.2.foldl (fun a b ↦ a * f b) (f x.1)
```
Comment (themathqueen) [inline Mathlib/Algebra/Free.lean]: may as well also do :eyes:

```suggestion
    { toFun x := x.2.foldl (fun a b ↦ a * f b) (f x.1)
```

Comment (LLaurance) [reply Mathlib/Algebra/Free.lean]: Indeed there are many of these sprinkled around the files... thanks for your review.

File: Mathlib/Algebra/FreeAlgebra.lean [hunk 2]
```diff
@@ -558,14 +558,12 @@ theorem induction {motive : FreeAlgebra R X → Prop}
...
-    simp [of, Subtype.coind]
+    simp [of]
   -- finding a proof is finding an element of the subalgebra
   suffices a = lift R of a by
     rw [this]
     exact Subtype.prop (lift R of a)
-  simp only [AlgHom.ext_iff, AlgHom.coe_id, id_eq, AlgHom.coe_comp, Subalgebra.coe_val,
-    Function.comp_apply] at of_id
-  exact of_id a
+  exact AlgHom.ext_iff.mp of_id a
```
Comment (joelriou) [inline Mathlib/Algebra/FreeAlgebra.lean]: Could you revert this change? because it is unclear that this is an improvement, arguably.

**Comment by LLaurance** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/a5394c2aff126586d4b90050b37c24574f5bb177?reference=dd711ae046ed5b46c266f22e6a07873fd4eaf0b7) for a5394c2aff126586d4b90050b37c24574f5bb177 against dd711ae046ed5b46c266f22e6a07873fd4eaf0b7 are in. No significant results found. @LLaurance

- ✅ `build//instructions`: **-1.7G** (**-0.00%**)

**Small changes (2🟥)**

- 🟥 `build/module/Mathlib.CategoryTheory.NatIso//instructions`: **+491.5M** (**+2.43%**)
- 🟥 `build/module/Mathlib.Util.AliasIn//instructions`: **+106.1M** (**+3.42%**) (reduced significance based on absolute threshold)

**Comment by dagurtomas** [comment]
Thanks!

maintainer merge

**Review by grunweg — COMMENTED** [review]
Thanks!
bors merge
